US06166064
1-(1,2,3,5,6,7-Hexahydro-s-indacen-4-yl)-ethanone oxide
A mixture of 1-(1,2,3,5,6,7-Hexahydro-s-indacen-4-yl)-ethanone (33 grams), ethanol (250 mL) hydroxylamine hydrochloride (58.5 grams) and pyridine (80 mL) was heated to reflux for a period of 12 hours. The mixture was then cooled to room temperature and concentrated in vacuo. The residue was then treated with 500 mL of water and extracted with chloroform-methanol. The organic phase was dried over anhydrous sodium sulfate and concentrated in vacuo to afford 32 grams of the title compound as a mixture of E and Z isomers, 178.6-182.3° C.

reactant | 1-(1,2,3,5,6,7-Hexahydro-s-indacen-4-yl)-ethanone | 33 grams | C1CCC2=C(C=3CCCC3C=C12)C(C)=O | C14H16O
reactant | ethanol | 250 mL, 58.5 grams | C(C)O | C2H6O
solvent | pyridine | 80 mL | N1=CC=CC=C1 | C5H5N
product | 1-(1,2,3,5,6,7-Hexahydro-s-indacen-4-yl)-ethanone oxide | 32 grams | C1CCC2=C(C=3CCCC3C=C12)C(C)=[O+][O-] | C14H16O2
